US05705646
B. 4-Ethoxycarbonyl-5-methyl-3-methylthio-1-(2,4,6-trichlorophenyl)pyrazole
A mixture of 1.22 g (5.23 mmol) of ethyl 3,3-bismethylthio-2-acetylacrylate and 1.11 g (5.23 mmol) of 2,4,6-trichlorophenylhydrazine in 12 mL of ethanol was heated at reflux for 2 hours. The cooled reaction mixture was then poured into cold water and the product was extracted into ether. The ethereal extracts were dried and evaporated and the residues were chromatographed on silica gel using 6:1 hexane/ethyl acetate as eluent to give 1.12 g (56%) of the desired product as a crystalline solid, m.p. 95°-98° C. 1H-NMR (CDCl3) δ1.38 (3H, t, J=7), 2.30 (3H, s), 2.49 (3H, s.), 4.31 (2H, q, J=7), 7.47 m(2H, s).

reactant | ethyl 3,3-bismethylthio-2-acetylacrylate | 5.23 mmol, 1.22 g | CSC(=C(C(=O)OCC)C(C)=O)SC | C9H14O3S2
reactant | 2,4,6-trichlorophenylhydrazine | 5.23 mmol, 1.11 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | water | O | H2O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 4-Ethoxycarbonyl-5-methyl-3-methylthio-1-(2,4,6-trichlorophenyl)pyrazole | 1.12 g, 56% | C(C)OC(=O)C=1C(=NN(C1C)C1=C(C=C(C=C1Cl)Cl)Cl)SC | C14H13Cl3N2O2S
